US09145409B2
Intermediate 52. 2-[[3-[(S)-(tert-butoxycarbonylamino)-phenyl-methyl]phenoxy]methyl]oxazole-4-carboxylic acid (I52)
To a stirred solution of methyl 2-[[3-[(S)-(tert-butoxycarbonylamino)-phenyl-methyl]phenoxy]methyl]oxazole-4-carboxylate (0.8 g, 1.825 mmol) in THF (9.2 mL) and methanol (9.2 mL) was added a solution of lithium hydroxide monohydrate (153.1 mg, 3.65 mmol) in water (3.6 mL). The reaction was stirred at room temperature for 18 h. The majority of the solvent was removed in vacuo. The residue was diluted with water (50 mL) and cooled to 0° C. 2N aqueous HCl (1.82 mL) was added dropwise. The reaction mixture was extracted with ethyl acetate (3×20 mL) and the combined organic phases were washed with brine, dried over MgSO4, filtered and concentrated in vacuo to give the title compound as a colourless solid (736 mg, 95%).

reactant | methyl 2-[[3-[(S)-(tert-butoxycarbonylamino)-phenyl-methyl]phenoxy]methyl]oxazole-4-carboxylate | 1.825 mmol, 0.8 g | C(C)(C)(C)OC(=O)N[C@H](C=1C=C(OCC=2OC=C(N2)C(=O)OC)C=CC1)C1=CC=CC=C1 | C24H26N2O6
reactant | lithium hydroxide monohydrate | 3.65 mmol, 153.1 mg | O.[OH-].[Li+]
solvent | THF | 9.2 mL | C1CCOC1 | C4H8O
solvent | methanol | 9.2 mL | CO | CH4O
solvent | water | 3.6 mL | O | H2O
product | 2-[[3-[(S)-(tert-butoxycarbonylamino)-phenyl-methyl]phenoxy]methyl]oxazole-4-carboxylic acid | 736 mg, 95% | C(C)(C)(C)OC(=O)N[C@H](C=1C=C(OCC=2OC=C(N2)C(=O)O)C=CC1)C1=CC=CC=C1 | C23H24N2O6
